US06673818B2
Step 9: Preparation of 4-[3,5-difluoro-4-(methylsulfonyl)-phenyl]-5-methyl-3-phenylisoxazole
Potassium peroxymonosulfate (0.25 g, 0.40 mmol) and water (7 mL) were added to a mixture of 4-[3,5-difluoro-4-(methyl-sulfinyl)phenyl]-5-methyl-3-phenylisoxazole (0.10 g, 0.30 mmol), dichloromethane (4 mL), and methanol (4 mL). The mixture was stirred for four days at room temperature. To the mixture was added magnesium monoperoxyphathalate hexahydrate (0.50 g, 0.80 mmol), dichloromethane (20 mL), methanol (10 mL). The mixture was stirred vigorously for 18 hours. To the mixture was added potassium peroxymonosulfate (0.35 g, 0.57 mmol), and the reaction continued for 18 hours. The mixture was poured into water and extracted with dichloromethane (4×75 mL). The combined extracts were dried with magnesium sulfate, concentrated, and the residue purified by silica gel chromatography using 30% ethyl acetate in hexanes. A white solid (98 mg, 93%) was obtained. MP 140.4-143.4° C. 1H NMR (CDCl3/400 MHz) 7.35-7.45 (m, 5H), 6.84 (d, 2H, J=9.4), 3.32 (s, 3H) 2.52 (s, 3H). ESHRMS m/z 350.0642 (M+H+, Calcd 350.0662).

reactant | Potassium peroxymonosulfate | 0.40 mmol, 0.25 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | 4-[3,5-difluoro-4-(methyl-sulfinyl)phenyl]-5-methyl-3-phenylisoxazole | 0.30 mmol, 0.10 g | FC=1C=C(C=C(C1S(=O)C)F)C=1C(=NOC1C)C1=CC=CC=C1 | C17H13F2NO2S
reactant | magnesium monoperoxyphathalate hexahydrate | 0.80 mmol, 0.50 g | O.O.O.O.O.O.C(C=1C(C(=O)[O-])=CC=CC1)(=O)O[O-].[Mg+2]
reactant | potassium peroxymonosulfate | 0.57 mmol, 0.35 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
solvent | water | O | H2O
solvent | methanol | 10 mL | CO | CH4O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | methanol | 4 mL | CO | CH4O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | water | 7 mL | O | H2O
product | 4-[3,5-difluoro-4-(methylsulfonyl)-phenyl]-5-methyl-3-phenylisoxazole | 98 mg, 93% | FC=1C=C(C=C(C1S(=O)(=O)C)F)C=1C(=NOC1C)C1=CC=CC=C1 | C17H13F2NO3S
